US07435823B2
Phosphorus oxychloride (6.743 g, 4.100 mL, 43.98 mmol) was added to a solution of 3-iodo-6,7-dimethoxyquinolin-4(1H)-one(13.237 g, 39.98 mmol) in DMF (100 mL). The mixture was stirred at 100° C. for 2 h then cooled to RT. The mixture was poured into ice water and the resulting precipitate was filtered and dried to afford 4-chloro-3-iodo-6,7-dimethoxyquinoline as a light brown solid. MS (ESI, pos. ion) m/z: 349.9 (M+H). Mass Calc'd for C11H9ClINO2: 349.

reactant | Phosphorus oxychloride | 43.98 mmol, 4.100 mL, 6.743 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-iodo-6,7-dimethoxyquinolin-4(1H)-one | 39.98 mmol, 13.237 g | IC1=CNC2=CC(=C(C=C2C1=O)OC)OC | C11H10INO3
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 4-chloro-3-iodo-6,7-dimethoxyquinoline | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)I | C11H9ClINO2
